US07968573B2
To a mixture of 1.0 g of 1-(2-chlorophenyl)-3-trifluoromethyl-1H-pyrazole-5-carbonyl chloride and 10 ml of acetonitrile was added 0.60 g of 2-amino-5-chloro-3-methylbenzoic acid, and the resulting mixture was stirred at room temperature for 10 minutes. To the mixture, 0.46 ml of triethylamine was added. After the mixture was stirred at room temperature for 20 minutes, 0.92 ml of triethylamine was further added thereto. After the mixture was stirred at room temperature for 20 minutes, 0.28 ml of methanesulfonyl chloride was added thereto and the mixture was stirred at room temperature for 3 hours. The reaction mixture was filtered, and the resulting filtrate was concentrated under reduced pressure. The resulting residue was subjected to silica gel column chromatography to obtain 0.98 g of 6-chloro-2-[1-(2-chlorophenyl)-3-trifluoromethyl-1H-pyrazol-5-yl]-8-methyl-4H-3,1-benzoxazine-4-one of the formula:

reactant | 1-(2-chlorophenyl)-3-trifluoromethyl-1H-pyrazole-5-carbonyl chloride | 1.0 g | ClC1=C(C=CC=C1)N1N=C(C=C1C(=O)Cl)C(F)(F)F | C11H5Cl2F3N2O
reactant | acetonitrile | 10 ml | C(C)#N | C2H3N
reactant | 2-amino-5-chloro-3-methylbenzoic acid | 0.60 g | NC1=C(C(=O)O)C=C(C=C1C)Cl | C8H8ClNO2
reactant | methanesulfonyl chloride | 0.28 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | triethylamine | 0.92 ml | C(C)N(CC)CC | C6H15N
solvent | triethylamine | 0.46 ml | C(C)N(CC)CC | C6H15N
product | 6-chloro-2-[1-(2-chlorophenyl)-3-trifluoromethyl-1H-pyrazol-5-yl]-8-methyl-4H-3,1-benzoxazine-4-one | 0.98 g | ClC=1C=C(C2=C(C(OC(=N2)C2=CC(=NN2C2=C(C=CC=C2)Cl)C(F)(F)F)=O)C1)C | C19H10Cl2F3N3O2
